US05580989
To a suspension of Mg turnings (3 g, 0.123 mol) in THF (40 ml) was added a small amount of solid I2 (20 mg). The mixture was heated to reflux under nitrogen. To the mixture was then added a small reaction-initiating amount (5 ml) of a solution of 19.6 g of 2-bromothiophene in 40 ml of THF. After the iodine color disappeared, the remainder of the 2-bromothiophene solution was added dropwise at a rate to maintainin reflux. After the addition, the mixture was heated under reflux for 2 hours, then was cooled to room temperature. To this mixture was added 0.3 g of CuCl catalyst followed by the dropwise addition of 4-fluorobenzyl chloride (14.4 g), again at a rate to maintain reflux. The mixture was stirred at room temperature for 2 h. After this period, saturated NH4Cl solution (100 ml) was added and the mixture was stirred for 30 min., the organic layer was separated and washed with 10% sodium thiosulfate solution (50 ml), followed by distilled water (100 ml). The organic layer was then dried over MgSO4 and concentrated to give 19 g of 2-(4-fluorobenzyl)thiophene as an oil. Purification was achieved by vacuum distillation (110° C., 5 mmHg).

reactant | 2-bromothiophene | 19.6 g | BrC=1SC=CC1 | C4H3BrS
reactant | iodine | II | I2
reactant | 4-fluorobenzyl chloride | 14.4 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | CuCl | 0.3 g | Cl[Cu]
catalyst | I2 | 20 mg | II | I2
product | 2-(4-fluorobenzyl)thiophene | 19 g | FC1=CC=C(CC=2SC=CC2)C=C1 | C11H9FS
